US07846960B2
6-Chloro-1,2-dimethyl-1H-indole-3-carboxylic Acid Methyl Ester
A mixture of 6-chloro-2-methyl-1H-indole-3-carboxylic acid methyl ester (2.76 g, 12.3 mmol), potassium carbonate (6.80 g, 49.2 mmol), iodomethane (1.07 mL, 17.2 mmol) and DMF (36 mL) is stirred overnight at room temperature. The mixture is diluted with ethyl acetate, washed twice with water, washed with brine and dried (MgSO4) and concentrated. The residue is triturated in 25 mL of 1:3 ethyl acetate-heptane and filtered to provide 1.63 g (55%) of pure title product. Additional material can be obtained through further trituration of the mother liquor. ES/MS m/e 238.0 (M+1).

reactant | 6-chloro-2-methyl-1H-indole-3-carboxylic acid methyl ester | 12.3 mmol, 2.76 g | COC(=O)C1=C(NC2=CC(=CC=C12)Cl)C | C11H10ClNO2
reactant | potassium carbonate | 49.2 mmol, 6.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 17.2 mmol, 1.07 mL | IC | CH3I
reactant | DMF | 36 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-1,2-dimethyl-1H-indole-3-carboxylic Acid Methyl Ester | 1.63 g, 55% | COC(=O)C1=C(N(C2=CC(=CC=C12)Cl)C)C | C12H12ClNO2
